US08633173B2
N-{4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}-5-[4-(methylsulfonyl)phenyl][1,2,4]triazolo[1,5-a]pyridin-2-amine was prepared from 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.260 mmol) and ]-4-(4-bromo-benzyl)-thiomorpholine 1,1-dioxide (90.0 mg, 0.296 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a pale orange foam (0.040 g, 30%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.25 (d, J=7.9 Hz, 2H), 8.14 (d, J=7.4 Hz, 2H), 7.59-7.56 (m, 2H), 7.52 (d, J=7.8 Hz, 2H), 7.29-7.25 (m, 2H), 7.08-7.03 (m, 1H), 6.94 (s, 1H), 3.61 (s, 2H), 3.16 (s, 3H), 3.08-3.03 (m, 4H), 3.01-2.96 (m, 4H). MS=512 (MH)+.

reactant | 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.260 mmol, 75.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 4-(4-bromo-benzyl)-thiomorpholine 1,1-dioxide | 0.296 mmol, 90.0 mg | BrC1=CC=C(CN2CCS(CC2)(=O)=O)C=C1 | C11H14BrNO2S
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-{4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}-5-[4-(methylsulfonyl)phenyl][1,2,4]triazolo[1,5-a]pyridin-2-amine | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C2=CC=C(C=C2)S(=O)(=O)C)=N1)=O | C24H25N5O4S2
